US07652049B2
In a tube were placed 2,4-dibromothiazole (100 mg, 0.411 mmol), isopropenylboronic acid (39 mg, 0.452 mmol), DME (1.625 mL), EtOH (563 μL), and 1M aqueous Na2CO3 (1.03 mL, 1.03 mmol). The mixture was degassed with N2. Next, Pd(PPh3)4 (24 mg, 0.0206 mmol) was added and the mixture was degassed again with N2. The tube was sealed and heated at 100° C. for 2 hours. The reaction was then cooled to room temperature, diluted with EtOAc (50 mL), and washed with water and brine (15 mL each). The organic layer was dried over Na2SO4, filtered, and concentrated. Purification of the residue by flash chromatography on silica gel (0 to 15% EtOAc/hexanes) afforded 4-bromo-2-isopropenyl-1,3-thiazole; NMR showed an impurity present that was not removed. Rf=0.53 (15% EtOAc/hexanes). LCMS=206.0 (M+1)+. 1H NMR (CDCl3, 500 MHz) δ 7.13 (s, 1H), 5.87 (s, 1H), 5.33 (d, J=1.3 Hz, 1H), 2.21 (s, 3H).

reactant | 2,4-dibromothiazole | 0.411 mmol, 100 mg | BrC=1SC=C(N1)Br | C3HBr2NS
reactant | isopropenylboronic acid | 0.452 mmol, 39 mg | C(=C)(C)B(O)O | C3H7BO2
reactant | DME | 1.625 mL | COCCOC | C4H10O2
reactant | Na2CO3 | 1.03 mmol, 1M, 1.03 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.0206 mmol, 24 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | EtOH | 563 μL | CCO | C2H6O
product | 4-bromo-2-isopropenyl-1,3-thiazole | BrC=1N=C(SC1)C(=C)C | C6H6BrNS
